US08198287B2
To a solution of 10.0 g (39.0 mmol) (+/−)10-methyl-2-pyrimidin -4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one in a mixture of dry tetrahydrofuran/dimethyltetrahydropyrimidinone (150/20 mL) under argon at −78° C. was added 81.9 mL (81.9 mmol) of lithium bis(trimethylsilyl)amide (1M in tetrahydrofuran). The solution was stirred at −78° C. for 5 min. The solution was warmed to 0° C. by changing the cold bath and 13.3 g (42.9 mmol) of 2,4,6-triisopropylbenzene -sulfonyl azide in 30 mL of dry tetrahydrofuran was added. The reaction was stirred at 0° C. for 1 h, at room temperature for 1 h and 10.0 mL (175.6 mmol) of acetic acid was added. The mixture was stirred at room temperature for 1 h and then diluted with ethyl acetate. The organic phase was washed with water and a saturated solution of sodium chloride, dried over sodium sulfate and concentrated to afford 10-azido-1 0-methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one as an orange oil. The compound was used as such in the next step.

reactant | (+/−)10-methyl-2-pyrimidin -4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | 39.0 mmol, 10.0 g | CC1C=2N(CCCC1)C(C=C(N2)C2=NC=NC=C2)=O | C14H16N4O
reactant | lithium bis(trimethylsilyl)amide | 81.9 mmol, 1M, 81.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,4,6-triisopropylbenzene -sulfonyl azide | 42.9 mmol, 13.3 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | acetic acid | 175.6 mmol, 10.0 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran dimethyltetrahydropyrimidinone | 20 mL | O1CCCC1.CN1C(N(CCC1)C)=O
product | 10-azido-1 0-methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | N(=[N+]=[N-])C1(C=2N(CCCC1)C(C=C(N2)C2=NC=NC=C2)=O)C | C14H15N7O
